US07572814B2
A mixture of 3-(3-fluoro-2-methylphenyl)-1,5-bis(3-methoxyphenyl)pentane-1,5-dione (71.6 g, 170 mmol) and (145 g, 782 mmol) in acetic acid (300 mL) was stirred at 120° C. under nitrogen for 16 h. An additional 5 g (27.0 mmol) of Eschenmoser's salt was added and the mixture heated an additional 2 h. The solution was allowed to cool to room temperature and concentrated in vacuo to give a brown solid. The residue slurried with water and then treated with NaOH (s) until the pH reached 10. EtOAc (100 mL) was added, and the pH was adjusted to 10 with NaOH (s). The vigorously stirred mixture was diluted with 200 mL of EtOAc followed by 300 mL of hexanes. The pale yellow solid was isolated by filtration, washed with water (200 mL), hexanes (200 mL), and ethyl acetate (100 mL), and dried under vacuum at 45° C. overnight to give 91 g of desired 2-((dimethylamino)methyl)-3-(3-fluoro-2-methylphenyl)-1,5-bis(3-methoxyphenyl)-4-methylenepentane-1,5-dione product as a crude yellow solid, (characterized by LCMS and 1H NMR), LRMS (M+H+) m/z=490.5.

reactant | 3-(3-fluoro-2-methylphenyl)-1,5-bis(3-methoxyphenyl)pentane-1,5-dione | 170 mmol, 71.6 g | FC=1C(=C(C=CC1)C(CC(=O)C1=CC(=CC=C1)OC)CC(=O)C1=CC(=CC=C1)OC)C | C26H25FO4
reactant | Eschenmoser's salt | 27.0 mmol, 5 g | C[N+](=C)C.[I-]
reactant | water | O | H2O
reactant | NaOH | [OH-].[Na+]
reactant | acetic acid | 300 mL | C(C)(=O)O | C2H4O2
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | 2-((dimethylamino)methyl)-3-(3-fluoro-2-methylphenyl)-1,5-bis(3-methoxyphenyl)-4-methylenepentane-1,5-dione | 91 g | CN(C)CC(C(=O)C1=CC(=CC=C1)OC)C(C(C(=O)C1=CC(=CC=C1)OC)=C)C1=C(C(=CC=C1)F)C | C30H32FNO4
